US06765012B2
3-{[4-(3-Diethylamino-propoxy)-3-fluoro-phenylamino]-methylene}-1,3-dihydro-indol-2-one
In a manner similar to that described in Example 231, 4-(3-Diethylamino-propoxy)-3-fluoro-phenylamine (400 mg, 1.1 equiv.) and 3-hydroxymethylene-1,3-dihydro-indol-2-one (242 mg, 1.5 mmol, 1 equiv.) are reacted to give the named compound as a yellow solid (135 mg, 24%).

reactant | 4-(3-Diethylamino-propoxy)-3-fluoro-phenylamine | 400 mg, 1.1 equiv. | C(C)N(CCCOC1=C(C=C(C=C1)N)F)CC | C13H21FN2O
reactant | 3-hydroxymethylene-1,3-dihydro-indol-2-one | 1.5 mmol, 242 mg, 1 equiv. | OC=C1C(NC2=CC=CC=C12)=O | C9H7NO2
product | 3-{[4-(3-Diethylamino-propoxy)-3-fluoro-phenylamino]-methylene}-1,3-dihydro-indol-2-one | 135 mg, 24% | C(C)N(CCCOC1=C(C=C(C=C1)NC=C1C(NC2=CC=CC=C12)=O)F)CC | C22H26FN3O2
